US04178387
Excess phosgene is bubbled into a warm solution of 21.5 g (0.11 moles) of 2,6-diethyl-4-nitroaniline in toluene (250 ml). After the addition, the mixture is heated to reflux and approximately 200 ml of toluene are distilled. The remainder of the toluene is removed under vacuum and the remaining brown semi-solid is distilled under vacuum to give 2,6-diethyl-4-nitrophenylisocyanate, b.p. 135°-144° C./1 mm, as a yellow liquid which crystallized on standing.

reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | 2,6-diethyl-4-nitroaniline | 0.11 moles, 21.5 g | C(C)C1=C(N)C(=CC(=C1)[N+](=O)[O-])CC | C10H14N2O2
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | 2,6-diethyl-4-nitrophenylisocyanate | C(C)C1=C(C(=CC(=C1)[N+](=O)[O-])CC)N=C=O | C11H12N2O3
